US04024147
b. 1-(2-[N-(p-Chlorobenzyl)-N-(2-pyridyl) amino]ethyl)-4-(p-nitrobenzamido)piperidine
The title compound is prepared in a manner similar to Example 11 using 1-(2-chloroethyl)-4-(p-nitrobenzamido)piperidine and 2-(p-chlorobenzyl)aminopyridine.

reactant | 1-(2-chloroethyl)-4-(p-nitrobenzamido)piperidine | ClCCN1CCC(CC1)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C14H18ClN3O3
reactant | 2-(p-chlorobenzyl)aminopyridine | ClC1=CC=C(CNC2=NC=CC=C2)C=C1 | C12H11ClN2
product | 1-(2-[N-(p-Chlorobenzyl)-N-(2-pyridyl) amino]ethyl)-4-(p-nitrobenzamido)piperidine | ClC1=CC=C(CN(C2=NC=CC=C2)CCN2CCC(CC2)NC(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C26H28ClN5O3
